Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / clindamycin / Motrin
 
Attending: ___
 
Chief Complaint:
Seizures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year-old male, pmh of Cerebral Palsy, 
Seizures/
Pseudoseizures, HIV, and prior substance abuse, who presents 
with
seizures. 

History is per significant other who is present at bedside. He
has had 4 Seizures in the past week. She says he "rarely has
seizures" with a typical frequency is 2/week. She is unable to
describe his typical seizures. He does not take his Dilantin or
tegretol medication regularly. He has been having a cold
recently, endorsing cough, no fevers (did not measure
temperature). He did vomit yesterday (not sure if bilious or
bloody). He also had a couple drinks yesterday. He typically
drinks 2 24 ounces of beer, which is decreased from 4 40 ounces
of beer. His last drink was 4 pm. On DOA, he had an event with
eyes rolling, total body shaking, lasting less than 5 mins. 
Since
this is longer than his usual seizures, she called EMS, who
brought him to ___ ___. In ___ he had two events of Right head
deviation and total body shaking, < 4 mins each time and was
given 2 mg and 1 mg of Ativan respectively. She denies that he
has ever done IV or RDU. 

Collateral information from ___ RN, who spoke with patient's
sister-in law who called in. Sister-in-law is estranged but is
angry at the patient. His ?wife or ?ex-wife was declared brain
dead in early ___ after an overdose and she feels he 
had
her cremated too quickly and too quickly moved on to his new
significant other. 

Patient is drowsy, requiring frequent sternal rubs to wake up, 
he
did not remember what happened, and endorses that he takes his
medications. 

Unable to complete ROS 

 
Past Medical History:
- CP; R hemiplegia, 
- seizures, pseudoseizures: Pt has been seen in consultation by
neurology before while admitted for other problems like MRSA. 
Not
seen in clinic by neurology due to non-compliance. His levels
have been low repeatedly.  Per notes, he has had seizures
since age ___, following head trauma.
- HIV (CD4 count unknown, refuses HAART) - However prior 
negative HIV tests in partner's system when he endorsed HIV on 
their admissions
- h/o domestic violence, homelessness 
- MRSA buttocks, chin 
- depression 
- history of barbiturate abuse, alcohol abuse, non-compliance
with AEDs
- ? DM 

 
Social History:
___
Family History:
Grandmother with diabetes. Mother with cerebral palsy and 
epilepsy. Eldest daughter with cerebral palsy. 

 
Physical Exam:
=================
ADMISSION EXAM
=================
Vitals: T: 98.6 P: 97 R: 16  BP:112/61  SaO2: 97% RA 
General: thin male, disheveled. Somnolent requiring sternal rubs
to wake up, once awake, while answer questions with "what" or a
simple sentence ( "I take my medications") and return to 
sleeping

HEENT: NC/AT, injected sclera MMM, poor dentition with missing
teeth
Neck: Supple
Pulmonary: CTABL. No R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G 
Abdomen: soft, NT/ND, +BS, no masses or organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: tattoos

Neurologic:

-Mental Status: Somnolent, arouses to sternal rub and falls back
asleep quickly. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF could not be done. 
V: Facial sensation could not assess 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to voice 
IX, X: Palate elevates symmetrically.
XI: could not assess trapezii/SCM 
XII: Tongue protrudes in midline.

-Sensory-Motor: decreased bulk, tone throughout. No pronator
drift bilaterally.No adventitious movements, such as tremor,
noted. No asterixis noted. Moving all extremities symmetrically
antigravity. Sensaiton appear grossly intact to LT b/l. Full
motor and sensory testing couldnot be assessed ___ MS. 

-___:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: not tested 

-Gait: not tested
.
.
========================
DISCHARGE PHYSICAL EXAM
========================
On the day of discharge AM exam.
.
VS Afebrile, 99-110s/60s, 76-88, RR 11, Satting well on RA
General- somnolent, but not in acute distress
Pulm - Cough
Mental Status - Somnolent requiring aggressive tactile stimuli 
to arouse. Does not know why he is in the ___
Motor - Holds R fingers curled. At least antigravity in all four 
extremities. 
.
Immediately prior to patient leaving against medical advice: 
He is standing on his own, knows that he is in the hospital for 
seizures and that the risks of leaving include seizures, fall, 
trauma, death. 
He is still intermittently somnolent and at times unsteady on 
his feet but is able to walk independently. 
 
Pertinent Results:
===============
ADMISSION LABS
===============

___ 04:35AM BLOOD WBC-8.5 RBC-4.18* Hgb-13.0* Hct-38.6* 
MCV-92 MCH-31.1 MCHC-33.7 RDW-14.2 RDWSD-48.1* Plt ___
___ 04:35AM BLOOD Neuts-44.6 ___ Monos-6.7 Eos-4.1 
Baso-0.5 Im ___ AbsNeut-3.81 AbsLymp-3.73* AbsMono-0.57 
AbsEos-0.35 AbsBaso-0.04
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-99 UreaN-11 Creat-0.6 Na-140 
K-4.7 Cl-106 HCO3-26 AnGap-13
___ 04:35AM BLOOD ALT-16 AST-31 AlkPhos-93 TotBili-0.1
___ 04:35AM BLOOD cTropnT-<0.01
___ 04:35AM BLOOD Albumin-3.7 Calcium-9.1 Phos-4.4 Mg-2.0
___ 04:35AM BLOOD Phenyto-4.1*
___ 04:35AM BLOOD ASA-NEG Ethanol-NEG Carbamz-2.5* 
Acetmnp-NEG Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:52AM BLOOD Lactate-0.9
___ 05:34AM URINE Color-Yellow Appear-Clear Sp ___
___ 05:34AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:34AM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 05:34AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
___ yo male, pmh of CP, Seizure do, HIV, alcohol abuse with a 
complicated social history, presenting for increased seizure 
frequency in setting of recent viral illness and medication 
non-compliance. Initial exam was difficult as he was given 3mg 
Ativan in the ___ and loaded with Phenytoin but appears to be 
nonfocal. 

He was admitted for seizure management and was ordered for 
cvEEG. Admission labs did not show any 
toxic/metabolic/infectious cause for increased seizure 
frequency. CXR was clear. Head CT was negative for bleed. 

His somnolence improved on the floor. When he was evaluated by 
our team, he had an episode of right arm shaking that appeared 
to be non-epileptiform that his fiancé identified as his normal 
seizures. He was responsive during the event- responding to a 
command to sit back in bed. He otherwise appeared well aside 
from what appeared to be benzodiazepine side effect. His AED 
levels were low on admission - Phenytoin: 4.1 Carbamazepine: 2.5 
indicating that he was likely not taking his medications and we 
believe that this was likely the etiology for his seizures prior 
to admission. He was loaded with Phenytoin in the ___. We had 
decided that if he returned to baseline later in the day, he 
could be discharged and his home medications could be resumed 
and adjusted with outpatient titration. 

However, shortly afterwards in the early afternoon, his nurse 
found him with a bag of marijuana in his bed. She informed him 
that it was not allowed in the hospital and gave the marijuana 
to his brother to take out of the hospital. At this point he 
became very upset that she did this and stated that he wanted to 
leave. He changed and was evaluated by our team. He was standing 
independently but did appear to be still slightly somnolent - 
almost falling at one point but stumbled to catch himself. He 
stated that he knew he was in the hospital for seizures and 
understood that the risk of leaving was seizures, falls, trauma, 
harm to himself, and possibly death and accepted these risks. 

# Transitional Issues #
- Medication noncompliance
- Left AMA
- Follow up with Dr ___. 

 
Medications on Admission:
Unable to perform formal medication reconciliation as patient 
left before I could call the pharmacy. The following medications 
were what we believe he was on based on medication labels in his 
med bag. 
 
Discharge Medications:
1. CarBAMazepine 100 mg PO BID 
2. FoLIC Acid 1 mg PO DAILY 
3. Phenytoin Infatab 100 mg PO BID 
4. Thiamine 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

    You were admitted to the Neurology service in the setting of 
seizures on ___.  You had multiple seizures in the ___ 
Emergency Room, for which you were given Ativan.  You were found 
to have low levels of your seizure medications in your blood.  
We are worried that you are withdrawing from alcohol and that 
you need additional seizure medications.  You were given 
Dilantin in your IV to help control seizures.  You were still 
unsteady on day of discharge and requesting to leave against 
medical advice, and expressed understanding of your risk for 
further seizures if you leave now.

 
Followup Instructions:
___